US08183246B2
(6R)-6-{[6-(2-Fluorophenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]oxy}heptanoic acid
Dissolve 373 mg (0.72 mmol) (6R)-6-{[6-(2-fluorophenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]oxy}heptanoic acid tert.-butyl ester in 4 ml 4 N hydrogen chloride in dioxan and stir for 16 h at RT. After concentrating the reaction solution by evaporation under vacuum, purify the residue by preparative RP-HPLC (gradient: water/acetonitrile). 171 mg (51% of theor.) of the desired product is obtained.

reactant | (6R)-6-{[6-(2-fluorophenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]oxy}heptanoic acid tert.-butyl ester | 0.72 mmol, 373 mg | C(C)(C)(C)OC(CCCC[C@@H](C)OC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=C(C=CC=C2)F)=O | C30H33FN2O5
solvent | hydrogen chloride | 4 N, 4 ml | Cl | ClH
solvent | dioxan | O1CCOCC1 | C4H8O2
product | (6R)-6-{[6-(2-Fluorophenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]oxy}heptanoic acid | FC1=C(C=CC=C1)C1=C(C2=C(N=CN=C2O[C@@H](CCCCC(=O)O)C)O1)C1=CC=C(C=C1)OC | C26H25FN2O5
